US07259179B2
5-[(4-Methylpiperazin-1-yl)carbonyl]-1H-benzimidazole
In a procedure analogous to example 20, reaction of benzimidazole-5-carboxylic acid (400 mg, 2.50 mmol) and N-methylpiperazine (550 mg, 5.0 mmol) furnished the product (380 mg, 63%).

reactant | benzimidazole-5-carboxylic acid | 2.50 mmol, 400 mg | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | N-methylpiperazine | 5.0 mmol, 550 mg | CN1CCNCC1 | C5H12N2
product | 5-[(4-Methylpiperazin-1-yl)carbonyl]-1H-benzimidazole | 380 mg, 63% | CN1CCN(CC1)C(=O)C1=CC2=C(NC=N2)C=C1 | C13H16N4O
